US05120752
A solution of 2-(4-chlorophenoxy)-5-thiazolecarboxaldehyde from above and (carboethoxymethylene)triphenylphosphorane (9.51 g, 27.3 mmol) in toluene (125 mL) was refluxed for 1 hr. It was then cooled to r.t. and concentrated in vacuo. The residue was taken up in ether and the triphenylphosphine filtered off. The filtrate was concentrated to afford ethyl trans-3-(2-(4-chlorOphenoxy)-5-thiazolyl)propenoate which was used as is.

reactant | 2-(4-chlorophenoxy)-5-thiazolecarboxaldehyde | ClC1=CC=C(OC=2SC(=CN2)C=O)C=C1 | C10H6ClNO2S
reactant | (carboethoxymethylene)triphenylphosphorane | 27.3 mmol, 9.51 g | C(=O)(OCC)C=P(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C22H21O2P
solvent | toluene | 125 mL | C1(=CC=CC=C1)C | C7H8
product | ethyl trans-3-(2-(4-chlorOphenoxy)-5-thiazolyl)propenoate | ClC1=CC=C(OC=2SC(=CN2)/C=C/C(=O)OCC)C=C1 | C14H12ClNO3S
